US03931177
A stirred mixture of finely powdered 6-(3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone (13.1 g, 0.07 mole), potassium carbonate (9.5 g, 0.07 mole), allyl bromide (11.75 ml, 0.14 mole), and dry acetone (250 ml) was heated under reflux for 18 hours. Evaporation of the filtered solution under reduced pressure gave 6-(3-allyloxyphenyl)-4,5-dihydro-3(2H)-pyridazinone which was washed with either (13.66 g, 86%, m.p. 111°-113°C). Crystallisation from a small volume of ethanol gave the pure pyridazinone m.p. 112°-114°C.

reactant | 6-(3-hydroxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | 0.07 mole, 13.1 g | OC=1C=C(C=CC1)C=1CCC(NN1)=O | C10H10N2O2
reactant | potassium carbonate | 0.07 mole, 9.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | allyl bromide | 0.14 mole, 11.75 ml | C(C=C)Br | C3H5Br
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 6-(3-allyloxyphenyl)-4,5-dihydro-3(2H)-pyridazinone | C(C=C)OC=1C=C(C=CC1)C=1CCC(NN1)=O | C13H14N2O2
